US05216134
6,6'-Dimethyl-4-nitro-2,2'-bipyridine-N-oxide (17)
6,6'-Dimethyl-2,2'-bipyridine-N-oxide (1.50 g, 0.00749 moles) was dissolved in concentrated sulfuric acid (8.0 ml) and fuming nitric acid (6.0 ml) and the mixture was heated at 100° C. for four hours. The solution was poured slowly into ice-water and the pH was adjusted to 5.5 with 10% sodium hydroxide. The product was filtered and dried.

reactant | 6,6'-Dimethyl-2,2'-bipyridine-N-oxide | 0.00749 moles, 1.50 g | CC=1C=CC=C([N+]1[O-])C1=NC(=CC=C1)C | C12H12N2O
reactant | nitric acid | 6.0 ml | [N+](=O)(O)[O-] | HNO3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | sulfuric acid | 8.0 ml | S(O)(O)(=O)=O | H2O4S
product | 6,6'-Dimethyl-4-nitro-2,2'-bipyridine-N-oxide | CC=1C=C(C=C([N+]1[O-])C1=NC(=CC=C1)C)[N+](=O)[O-] | C12H11N3O3
